US07612114B2
6-{2-{Cyclopropylmethyl{2-[4-(2-pyrrolidin-1-ylethoxy)phenyl]ethyl}amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-{cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol and 1-(2-chloroethyl)pyrrolidine hydrochloride according to an analogous synthetic method to Preparation Example 40, cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-pyrrolidin-1-ylethoxy)phenyl]ethyl}amine (284 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (241 mg).

reactant | 4-{2-{cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | C1(CC1)CN(CCC1=CC=C(C=C1)O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C30H35NO3
reactant | 1-(2-chloroethyl)pyrrolidine hydrochloride | Cl.ClCCN1CCCC1
reactant | cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-pyrrolidin-1-ylethoxy)phenyl]ethyl}amine | 284 mg | C1(CC1)CN(CCC1=CC=C(C=C1)OCCN1CCCC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C36H46N2O3
product | 6-{2-{Cyclopropylmethyl{2-[4-(2-pyrrolidin-1-ylethoxy)phenyl]ethyl}amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 241 mg | C1(CC1)CN(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CCC1=CC=C(C=C1)OCCN1CCCC1 | C34H42N2O3
